US06479531B1
3-Nitrophenylisocyanate was reacted with tert-butanol to form (3-nitro-phenyl)-carbamic acid tert-butyl ester. This was reacted with benzyl 2-bromoacetate, then the tert-butyloxycarbonyl group was removed and the resulting (3-nitro-phenylamino)-acetic acid benzyl ester was reduced with aluminium amalgam to afford (3-amino-phenylamino)-acetic acid benzyl ester. This was reacted with 5-(2-adamantan-1-yl-ethyl)-2-cyclohexyl-1H-imidazole-4-carboxylic acid (Example 252) according to the procedure of Example 20, step d. The benzyl ester was hydrogenolysed using the same procedure as in Example 1, step e to afford the title compound. 1H NMR (300 MHz, d6-DMSO/D2O) 7.02-6.86 (3H, m), 6.23 (1H, d), 3.55 (2H, s), 2.83 (2H, m), 2.61 (1H, m), 1.88-1.19 (27H, m). The acid was converted to the N-methyl-D-glucamine salt and lyophilised from water/dioxan. Found: C, 59.09; H, 8.60; N, 9.41%. C37H57N5O8.3.0 mols H2O requires: C, 58.95; H, 8.42; N, 9.29%.

reactant | 3-Nitrophenylisocyanate | [N+](=O)([O-])C=1C=C(C=CC1)N=C=O | C7H4N2O3
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
product | (3-nitro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=CC=C1)[N+](=O)[O-])=O | C11H14N2O4
